US06884868B1
A mixture of 1-bromo-4-(7-bromoheptyloxy)benzene (4.405 g), cis-2,6-dimethylmorpholine (1.55 ml) and potassium carbonate (2.09 g) in N,N-dimethylformamide (22 ml) was stirred for 1 hour at 70° C. To the reaction mixture was added cis-2,6-dimethylmorpholine (7.75 ml) and stirred for 1 hour at 70° C. Ethyl acetate (100 ml) was added, and the mixture washed with water (50 ml×2) and brine. The separated organic layer was dried over magnesium sulfate and evaporated under reduced pressure to give a crude pale yellow oil (5.30 g). The crude oil was purified by silica gel chromatography (20:1-1:2 hexane-ethyl acetate) to give 4-[7-(4-bromophenoxy)heptyl]-cis-2,6-dimethylmorpholine (4.43 g) as a pale yellow oil.

reactant | 1-bromo-4-(7-bromoheptyloxy)benzene | 4.405 g | BrC1=CC=C(C=C1)OCCCCCCCBr | C13H18Br2O
reactant | cis-2,6-dimethylmorpholine | 1.55 ml | C[C@@H]1CNC[C@@H](O1)C | C6H13NO
reactant | potassium carbonate | 2.09 g | C([O-])([O-])=O.[K+].[K+]
reactant | cis-2,6-dimethylmorpholine | 7.75 ml | C[C@@H]1CNC[C@@H](O1)C | C6H13NO
reactant | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 22 ml | CN(C=O)C | C3H7NO
product | 4-[7-(4-bromophenoxy)heptyl]-cis-2,6-dimethylmorpholine | 4.43 g | BrC1=CC=C(OCCCCCCCN2C[C@H](O[C@H](C2)C)C)C=C1 | C19H30BrNO2
